US04238390
Boc-Tyr-D-Thr-OH (I)
D-Threonine (4.58 g, 38.5 mmol) was dissolved in 19 ml of 40% Triton B and evaporated to an oil. It was re-evaporated twice from DMF, and the salt obtained was stirred with Boc-Tyr-OSu (13.24 g, 35 mmol) in DMF (80 ml) at 0° C. for 1.5 hr and at 25° C. for 30 hr. A constant pH of 8 was maintained by dropwise addition of Et3N during reaction time. The reaction was acidified to pH 4 with acetic acid. The solvent was evaporated to a syrup, dissolved in chloroform, washed with 0.5 N H2SO4 and water, dried (Na2SO4) and evaporated to low volume. The product was obtained as an amorphous solid from petroleum ether: 9.17 g (68.5%): [α]D25 -42.9° (c 1.4, DMF).

reactant | D-Threonine | 38.5 mmol, 4.58 g | N[C@H]([C@@H](O)C)C(=O)O | C4H9NO3
reactant | Boc-Tyr-OSu | 35 mmol, 13.24 g | N([C@@H](CC1=CC=C(C=C1)O)C(=O)ON1C(=O)CCC1=O)C(=O)OC(C)(C)C | C18H22N2O7
reactant | Et3N | CCN(CC)CC | C6H15N
reactant | acetic acid | C(C)(=O)O | C2H4O2
solvent | DMF | 80 ml | CN(C)C=O | C3H7NO
product | Boc-Tyr-D-Thr-OH | N([C@@H](CC1=CC=C(C=C1)O)C(=O)N[C@H]([C@@H](O)C)C(=O)O)C(=O)OC(C)(C)C | C18H26N2O7
